US07897762B2
To a solution of diphosgene (3.5 g, 17.7 mmol) in dioxane (350 mL) at 0° C. was slowly added a solution comprised of 5-((4-fluoro-3-nitrophenylamino)methyl)-N-methyl-2-(methylthio)pyrimidin-4-amine (5.2 g, 16.1 mmol) and Et3N (4.5 mL, 32.1 mmol) in dioxane (250 mL). The resultant reaction mixture was stirred at RT overnight. The solvent was removed in vacuo and the residue was partitioned between EtOAc and H2O. The combined organics were dried (Na2SO4) and concentrated to give crude product, which was washed with cold MeOH (5 mL) to give 3-(4-fluoro-3-nitrophenyl)-1-methyl-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (5.0 g, 89% yield) as a brown solid. 1H NMR (300 MHz, DMSO-d6): δ 8.26 (s, 1 H), 8.20 (m, 1 H), 7.82 (m, 1 H), 7.64 (dd, J=6.9, 8.4 Hz, 1 H), 4.82 (s, 2 H), 3.29 (s, 3 H), 2.50 (s, 3 H); MS (ESI) m/z: 350.3 (M+H+).

reactant | diphosgene | 17.7 mmol, 3.5 g | O=C(OC(Cl)(Cl)Cl)Cl | C2Cl4O2
reactant | 5-((4-fluoro-3-nitrophenylamino)methyl)-N-methyl-2-(methylthio)pyrimidin-4-amine | 16.1 mmol, 5.2 g | FC1=C(C=C(C=C1)NCC=1C(=NC(=NC1)SC)NC)[N+](=O)[O-] | C13H14FN5O2S
reactant | Et3N | 32.1 mmol, 4.5 mL | CCN(CC)CC | C6H15N
solvent | dioxane | 350 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 250 mL | O1CCOCC1 | C4H8O2
product | 3-(4-fluoro-3-nitrophenyl)-1-methyl-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 5.0 g, 89% yield | FC1=C(C=C(C=C1)N1C(N(C2=NC(=NC=C2C1)SC)C)=O)[N+](=O)[O-] | C14H12FN5O3S
